US05654326
A solution of 6.0 g (17.1 mmol) of 2-Ethyl-4-Nitro-α-oxo-1-(phenylmethyl)-1H-indole-3-acetamide in 140 ml of 1:1 THF:EtOH containing 1,0 g of 5% Pt/BaSO4 was hydrogenated at room temperature and 60 psi (4.22 Kg/cm2) for four hours. The catalyst was filtered and the filtrate evaporated in vacuo. The residue was chromatographed over silica gel eluting with Hexane/50 to 100% EtOAC to give 1.66 g (30%) of 4-Amino-2-Ethyl-α-oxo-1-(phenylmethyl)-1H-indole-3-Acetamide melting at 140°-144° C.

reactant | 2-Ethyl-4-Nitro-α-oxo-1-(phenylmethyl)-1H-indole-3-acetamide | 17.1 mmol, 6.0 g | C(C)C=1N(C2=CC=CC(=C2C1C(C(=O)N)=O)[N+](=O)[O-])CC1=CC=CC=C1 | C19H17N3O4
reactant | EtOH | 1,0 g | CCO | C2H6O
solvent | THF | 140 ml | C1CCOC1 | C4H8O
product | 4-Amino-2-Ethyl-α-oxo-1-(phenylmethyl)-1H-indole-3-Acetamide | 1.66 g, 30% | NC1=C2C(=C(N(C2=CC=C1)CC1=CC=CC=C1)CC)C(C(=O)N)=O | C19H19N3O2
